### PR TITLE
feat(Relativity): epsilon-epsilon contraction identities for the Levi-Civita tensor

### PR DESCRIPTION
**Pull request by Robby955**
Follow-up to #1274: the epsilon-epsilon contraction identities at the symbol level, the form that drives `leviCivita`'s components.

These are proved for `generalizedKroneckerDelta f id`, which `leviCivita_basis_repr_apply` already identifies with `leviCivita`'s components, not as corollaries restated directly in terms of `(Tensor.basis _).repr ε4`. The lowered-index Lorentzian forms actually discussed on #1274 (`ε^{...}ε_{...}` with one factor lowered by the metric) are referenced below.

- Builds the reusable contraction identity for the generalized Kronecker delta (summing one shared index out of `δ^{μ₁…μₖ}_{ν₁…νₖ}` reduces rank, the combinatorial fact behind `ε^{…}ε_{…}`), then specializes it to the three symbol-level identities at rank 4:

- `ε^{μνρσ} ε^{μνρσ} = 24` (full contraction)
- `ε^{μνρσ} ε^{μνρτ} = 6 δ^σ_τ` (three contracted, one free pair)
- `ε^{μνρσ} ε^{μντω} = 2 (δ^ρ_τ δ^σ_ω - δ^ρ_ω δ^σ_τ)` (two contracted, two free pairs)

These are stated at the symbol level (`generalizedKroneckerDelta f id`), which `leviCivita_basis_repr_apply` already identifies with `leviCivita`'s components.

The general contraction lemma needed a rank-one determinant update for *singular* matrices (`Matrix.det_add_rankOne`). Mathlib's existing version requires `IsUnit A.det`; the singular case is left unfinished at `Mathlib/LinearAlgebra/Matrix/SchurComplement.lean:425`, since the delta-matrices here are generically singular. Proved it via the Schur complement to drop dimension, then a rank-one update, then a Kronecker sum collapse.

these prove the all-upper-index form (`ε^{…}ε^{…}`), giving `+24`, `+6`, `+2(…)`. The mixed form `ε^{…}ε_{…}` (one factor lowered by the Lorentz metric) picks up a factor of `det η = -1` in 4D Minkowski signature, giving the negative signs. Same tensor structure (the antisymmetric `δδ - δδ` in the two-index case), different convention depending on whether one side is lowered.

### CODE REVIEW

File: Physlib/Relativity/Tensors/LeviCivita/Contractions.lean
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/LeviCivita/Contractions.lean:1]: A couple of comments here: 
- `theorem` -> `lemma` 
-  A lot of this is done using the generalizedKroneckerDelta not the `leviCivitaTensor`, so should likely go into the file where   generalizedKroneckerDelta is defined, or it should explicitly use `leviCivitaTensor` here. 
- It would be good to try and write these in terms of the tensor notation. I know this is difficult, but it makes things consistent.

**Comment by Robby955** [comment]
Updates:

- `theorem` -> `lemma` throughout.
- Split the file: the `generalizedKroneckerDelta` combinatorics (the contraction lemma, the product identity, the iterated sums) moved to `Physlib/Mathematics/KroneckerDeltaContraction.lean`, next to where
 `generalizedKroneckerDelta` itself is defined. The three headline lemmas stay in `Contractions.lean` and a
re now stated over `ε4`'s actual basis components rather than the bare integer symbol.
- On writing these in full tensor notation: tried the `{ε4 | μνρσ ⊗ ε4 | μνρσ}ᵀ` form directly and it doesn't elaborate. `contrT` needs the two contracted indices to have dual colors, and `ε4` carries `up` on all four slots, so pairing up with up fails (`τ up = up` isn't provable, only `τ up = down`). The genuine covariant contraction needs the metric-lowered `ε_{μνρσ}` (all-down), which isn't in physlib yet, so I left this noted in the docstring rather than force it. I will take a better look at that as well tomorrow to confirm that.

File: Physlib/Relativity/Tensors/LeviCivita/Contractions.lean [hunk 1]
```diff
@@ -0,0 +1,209 @@
...
+    sum_generalizedKroneckerDelta_cons₂ ρ σ τ ω 2, hdet]
+  norm_num [Finset.prod_range_succ]
+
+/-!
+
+## Epsilon-epsilon contraction identities
+
+-/
+
+/-- **Full Levi-Civita contraction** `ε^{μνρσ} ε^{μνρσ} = 24` at the symbol level.  Summing the
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/LeviCivita/Contractions.lean]: Regarding the tensor contractions, I think what we really want here `ε^{μνρσ} ε_{μνρσ}`, which means we need to lower the indices of `ε_{μνρσ}`. Maybe we should define something in `Tensor.Elab.lean` which lowers indices for us automatically.

Comment (jstoobysmith) [reply Physlib/Relativity/Tensors/LeviCivita/Contractions.lean]: I added some notation #1348 here - and wrote the lemmas you want with `sorry`. It might be best to base this PR off that one

**Comment by Robby955** [comment]
Thanks for adding the notation and sketching the two lemmas.

Working through `leviCivita_contract_self`, I'm getting `-24` rather than `24`. Tracing it through `minkowskiMatrix`, the diagonal product over any of `ε4`'s nonzero (permutation) components comes out to `(+1)(-1)(-1)(-1) = -1`, so the metric contraction picks up a sign relative to the symbol-level `+24` from #1335. I may be missing something about the convention there.

Same story for `leviCivita_contract_three`: I'm getting `-6 •ₜ unitTensor Color.down` rather than the bare unit tensor. The sign plus the `3! = 6` comes from contracting three indices, cross-checked against the `-24` result by taking its trace.

Separately, trying to actually build these with the `τ(μ) τ(ν) τ(ρ) τ(σ)` notation, I'm hitting `isDefEq` timeouts unifying the nested `Function.update` color against the plain `.down` color the proof needs downstream. Looks like a defeq-performance issue rather than a math one. A few things that might help: normalizing the nested color to `.down` before the final step, a reducibility lemma for `τ` on `Function.update` colors, or going through the tensor-algebra side instead of index-by-index. Haven't tried any of these yet, but I am going to give a few of them a try now.

I may be missing something on either the signs or the notation.

**Comment by jstoobysmith** [comment]
@Robby955 Awesome. I actually think the -24 and -6 is correct, see e.g. 

https://en.wikipedia.org/wiki/Levi-Civita_symbol#Example:_Minkowski_space

Do you have an example of where you hit `isDefEq` which you could provide a snippet off. I'm guessing it is due to how Function.update is defined.

**Comment by jstoobysmith** [comment]
I should also say, that I did not build any API around, `toDualAtIndex`, and some would no doubt be useful.

**Comment by Robby955** [comment]
So the symbol level identities stay +24 and +6, and the covariant statements pick up det η = -1, giving the -24 and -6.

Here is a minimal case of the isDefEq issue, from Function.update. The color of a τ-lowered tensor is a nested Function.update chain, and that is extensionally but not definitionally equal to the literal color vector:

    import Physlib.Relativity.Tensors.LeviCivita.Contractions
    import Physlib.Relativity.Tensors.RealTensor.Metrics.Basic

    open realLorentzTensor

    example :
        (Function.update (Function.update (Function.update (Function.update
          (![Color.up, Color.up, Color.up, Color.up] : Fin 4 → Color)
          0 ((realLorentzTensor 3).τ Color.up)) 1 ((realLorentzTensor 3).τ Color.up))
          2 ((realLorentzTensor 3).τ Color.up)) 3 ((realLorentzTensor 3).τ Color.up))
        = ![Color.down, Color.down, Color.down, Color.down] := by
      rfl

fails with "is not definitionally equal": the left side is a chain of dite lambdas, the right is a vecCons, and they only agree pointwise. 

    noncomputable def lowered : ℝT[3, .down, .down, .down, .down] :=
      {ε4 | τ(μ) τ(ν) τ(ρ) τ(σ)}ᵀ

    -- Type mismatch
    --   toDualAtIndex 3 (toDualAtIndex 2 (toDualAtIndex 1 (toDualAtIndex 0 ε4)))
    -- has type
    --   Tensor (Function.update (Function.update ... 0 (τ (![up,up,up,up] 0))) 1 (τ (Function.update ... 1)) ...)

The updates also nest inside the later τ's, so the term the unifier works on grows quickly. In larger elaborations it grinds through that before giving up, which is where my heartbeat timeouts came from rather than this clean failure.

What worked was staying at the component level and never asserting the color equality. Doing that, I now have both of the #1348 sketch lemmas proved at their covariant values, on a branch building on this one:

- leviCivita_contract_self : {ε4 | μ ν ρ σ ⊗ ε4 | τ(μ) τ(ν) τ(ρ) τ(σ)}ᵀ.toField = -24
- leviCivita_contract_three : the (-6) • unitTensor Color.down form

Together with component API around toDualAtIndex: single-index lowering multiplies each basis component by the diagonal η factor, the four-fold lowered ε4, det η = -1 on the support of ε4, and the scalar of a full upper-against-lower contraction as a component sum. If that makes sense I can open it as a follow-up PR once/if this one merges.

The specific mangles, if you'd rather fix in place: "color eqe both" → "color equality. Doing that, I now have both"; "branchbuilding" → "branch building"; "multipldiagonal η factor" → "multiplies each basis component by the diagonal η factor"; "ε4,and" → "ε4, and".

**Comment by Robby955** [comment]
-awaiting-author

File: Physlib/Relativity/Tensors/LeviCivita/Contractions.lean [hunk 2]
```diff
@@ -0,0 +1,209 @@
...
+private lemma cons_finSum {n : ℕ} (a : Fin 1 ⊕ Fin 3) (h : Fin n → (Fin 1 ⊕ Fin 3)) :
+    (fun i => finSumFinEquiv ((Fin.cons a h : Fin (n + 1) → _) i))
+      = Fin.cons (finSumFinEquiv a) (fun j => finSumFinEquiv (h j)) := by
+  funext i
+  refine Fin.cases ?_ ?_ i
+  · rfl
+  · intro j; rfl
+
+/-- The Kronecker delta is invariant under the component-index equivalence `finSumFinEquiv`. -/
+private lemma kron_finSum (a b : Fin 1 ⊕ Fin 3) :
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/LeviCivita/Contractions.lean]: Would move to kroneckerDelta file.

File: Physlib/Relativity/Tensors/LeviCivita/Contractions.lean [hunk 3]
```diff
@@ -0,0 +1,209 @@
...
+    kroneckerDelta (finSumFinEquiv a) (finSumFinEquiv b) = kroneckerDelta a b := by
+  simp only [kroneckerDelta, Equiv.apply_eq_iff_eq]
+
+/-- Symbol-level full contraction over `Fin 4 → Fin 4`. -/
+private lemma symbol_zero :
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/LeviCivita/Contractions.lean]: Would move to KronkeckerDeltaContraction, but also would give better name.

File: Physlib/Relativity/Tensors/LeviCivita/Contractions.lean [hunk 4]
```diff
@@ -0,0 +1,209 @@
...
+    ∑ g : Fin 4 → Fin 4,
+      generalizedKroneckerDelta g id * generalizedKroneckerDelta g id = (24 : ℤ) := by
+  rw [Finset.sum_congr rfl fun g _ => generalizedKroneckerDelta_mul g g,
+    sum_generalizedKroneckerDelta_self 4]
+  norm_num [Finset.prod_range_succ]
+
+/-- Symbol-level triple contraction, one free pair `σ, τ`. -/
+private lemma symbol_one (σ τ : Fin 4) :
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/LeviCivita/Contractions.lean]: Likewise

File: Physlib/Relativity/Tensors/LeviCivita/Contractions.lean [hunk 5]
```diff
@@ -0,0 +1,209 @@
...
+        generalizedKroneckerDelta (Fin.cons σ h) id
+          * generalizedKroneckerDelta (Fin.cons τ h) id
+      = 6 * ((kroneckerDelta σ τ : ℕ) : ℤ) := by
+  rw [Finset.sum_congr rfl fun h _ =>
+      generalizedKroneckerDelta_mul (Fin.cons σ h) (Fin.cons τ h),
+    sum_generalizedKroneckerDelta_cons σ τ 3]
+  norm_num [Finset.prod_range_succ]
+
+/-- Symbol-level double contraction, two free pairs. -/
+private lemma symbol_two (ρ σ τ ω : Fin 4) :
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/LeviCivita/Contractions.lean]: Likewise

File: Physlib/Relativity/Tensors/LeviCivita/Contractions.lean
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/LeviCivita/Contractions.lean:1]: Maybe we should name this file CovariantContractions? or similar

**Comment by jstoobysmith** [comment]
Will try and see if we can get Function.update to be def-eq. It is a bit annoying that it isn't.

**Comment by jstoobysmith** [comment]
```
import Physlib.Relativity.Tensors.LeviCivita.Contractions
import Physlib.Relativity.Tensors.RealTensor.Metrics.Basic

open realLorentzTensor

example :
    (Function.update (Function.update (Function.update (Function.update
      (![Color.up, Color.up, Color.up, Color.up] : Fin 4 → Color)
      0 ((realLorentzTensor 3).τ Color.up)) 1 ((realLorentzTensor 3).τ Color.up))
      2 ((realLorentzTensor 3).τ Color.up)) 3 ((realLorentzTensor 3).τ Color.up))
    = ![Color.down, Color.down, Color.down, Color.down] := by
  decide
 ```
 works, so they are decidable equal. I think this is likely all that we can ask for here.

**Comment by jstoobysmith** [comment]
This also works here: 
```

def lowered : ℝT[3, .down, .down, .down, .down] := permT id .auto
  {ε4 | τ(μ) τ(ν) τ(ρ) τ(σ)}ᵀ
  ```

**Comment by Robby955** [comment]
Cool, thanks!

I'll restate the follow-up branch on top of your `permT` form rather than the toDualAtIndex component route.

**Comment by jstoobysmith** [comment]
This permT route still uses toDaulAtIndex though in the taus unless I’m confused about what you mean

**Comment by Robby955** [comment]
You're right, thanks for catching this, I mislabeled that. The taus in {ε4 | τ(μ) τ(ν) τ(ρ) τ(σ)}ᵀ are toDualAtIndex, so permT doesn't replace it. What permT id .auto handles is the color ascription, letting the tau-lowered tensor be typed at the literal .down color; the lowering itself is still toDualAtIndex. So it composes with the component lemmas that compute the -24 and -6, rather than being an alternative to them. My earlier "permT instead of toDualAtIndex" was the wrong way to put it.

File: Physlib/Relativity/Tensors/LeviCivita/Contractions.lean
Comment (Robby955) [reply Physlib/Relativity/Tensors/LeviCivita/Contractions.lean:1]: The current content is the all-upper-index symbol-level identities, not the lowered ε_{μνρσ} form (that's #1348), so CovariantContractions could overstate it a bit. Want me to keep Contractions, or use SymbolContractions?

**Comment by Robby955** [comment]
Moved and made public next to their definitions: 

kron_finSum → KroneckerDelta.kroneckerDelta_finSumFinEquiv; symbol_zero/one/two → sum_generalizedKroneckerDelta_mul_self / _cons / _cons₂ in KroneckerDeltaContraction. Contractions.lean keeps only cons_finSum and now calls the new names.

**Comment by Robby955** [comment]
-awaiting-author

File: Physlib/Relativity/Tensors/LeviCivita/Contractions.lean
Comment (jstoobysmith) [reply Physlib/Relativity/Tensors/LeviCivita/Contractions.lean:1]: Let's keep it as it is for now.

File: Physlib/Mathematics/KroneckerDelta/Contraction.lean
Comment (jstoobysmith) [inline Physlib/Mathematics/KroneckerDelta/Contraction.lean:1]: I think we should make a ./Mathematics/KroneckerDelta directory put the KroneckerDelta file as Basic.lean and then this as Contraction.lean

File: Physlib/Mathematics/KroneckerDeltaContraction.lean [hunk 6]
```diff
@@ -0,0 +1,355 @@
...
+the singular case is needed here because Kronecker-delta matrices are typically singular. -/
+private lemma det_add_rankOne {ι : Type*} [DecidableEq ι] [Fintype ι] {R : Type*}
+    [CommRing R] (A : Matrix ι ι R) (w b : ι → R) :
+    (A + Matrix.of fun i j => w i * b j).det = A.det + ∑ i, w i * (A.updateRow i b).det := by
+  have h := det_add_rankOne_aux A w b Finset.univ
+  simpa using h
+
+end Matrix
+
+namespace KroneckerDelta
```
Comment (jstoobysmith) [inline Physlib/Mathematics/KroneckerDeltaContraction.lean]: Given that the lemmas all have `generalizedKroneckerDelta` in their name, I'm not sure we need this namespace.

File: Physlib/Mathematics/KroneckerDelta/Contraction.lean
Comment (Robby955) [reply Physlib/Mathematics/KroneckerDelta/Contraction.lean:1]: - Moved the KroneckerDelta file to Mathematics/KroneckerDelta/Basic.lean and this one to Mathematics/KroneckerDelta/Contraction.lean, with the imports updated to match.

File: Physlib/Mathematics/KroneckerDeltaContraction.lean (hunk 6 above)
Comment (Robby955) [reply Physlib/Mathematics/KroneckerDeltaContraction.lean]: - Dropped the KroneckerDelta namespace from the contraction lemmas so they sit at top level.

**Comment by Robby955** [comment]
-awaiting-author

File: Physlib/Relativity/Tensors/LeviCivita/Contractions.lean [hunk 7]
```diff
@@ -0,0 +1,174 @@
...
+    (fun i => finSumFinEquiv ((Fin.cons a h : Fin (n + 1) → _) i))
+      = Fin.cons (finSumFinEquiv a) (fun j => finSumFinEquiv (h j)) := by
+  funext i
+  refine Fin.cases ?_ ?_ i
+  · rfl
+  · intro j; rfl
+
+/-!
+
+## Epsilon-epsilon contraction identities
```
Comment (jstoobysmith) [inline Physlib/Relativity/Tensors/LeviCivita/Contractions.lean]: Really I think we should be defining two Levi-Civita tensors here, one with Euclidean indices (Fin 4) and one with Lorentz indices (Fin 1 + Fin 3). With Euclidean indices the contractions you have written here make sense, but I don't think they make sense when dealing with Lorentz indices (where one would want to rise and lower using the metric tensor). I think this would be quite a large change to this PR, but I think doing the following will help here: 

1. Make it clear here that these are not Lorentz contractions. 
2. Add a TODO along the lines with what I have written above. 

I think there are also some linter errors.

**Comment by jstoobysmith** [comment]
(Though if you want to actually try this now, I think the right place for it would be: 

./Relativity/Tensors/RealEuclidean/Basic.lean

, and for now define it directly through `generalizedKroneckerDelta`. )

**Comment by jstoobysmith** [comment]
sorry that there is a lot of back and forth with this one.

**Comment by Robby955** [comment]
No worries at all I understand getting it just right, so I know that will mean many edits and iterations too 

- contractions are now over Euclidean indices (Fin 4), not Lorentz.  docstrings now state that explicitly, and I added a TODO for the Lorentz version (Fin 1 + Fin 3, metric-lowered) pointing at Relativity/Tensors/RealEuclidean/Basic.lean via generalizedKroneckerDelta. 

- linter errors are fixed.

**Comment by Robby955** [comment]
-awaiting-author

**Review by jstoobysmith — APPROVED** [review]
Great! Approved! Many thanks for this

**Comment by jstoobysmith** [comment]
@Robby955 Did a quick edit (to base things on a euclidean Levi-civita) , but will merge this after the linters pass
